US04277621
The procedure described in Example (1a) is repeated, except that 93.6 g(0.5 mol) of N-benzylidene-(2-ethyl-1-butenylamine) [1-phenyl-4,4-diethyl-2-aza-1,3-butadiene, prepared from benzylamine and 2-ethyl-butenal and by subsequent isomerisation of the reaction product inthe presence of potassium tert.-butylate; boiling point 70° C./7 Pa;nD20 =1.5598; cf. J. Org. Chem., 43, No. 4, 782-84 (1978)] are used. Distillation yields 116 g (0.393 mol) of 3,3-diethyl-12-phenyl-1-aza-1,5,9-cyclododecatriene; boiling point 105° C./4 Pa; nD20 =1.5369.

reactant | N-benzylidene-(2-ethyl-1-butenylamine) | 0.5 mol, 93.6 g | C(C1=CC=CC=C1)=NC=C(CC)CC | C13H17N
reactant | 1-phenyl-4,4-diethyl-2-aza-1,3-butadiene | C1(=CC=CC=C1)C=NC=C(CC)CC | C13H17N
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-ethyl-butenal | C(C)C(C=O)=CC | C6H10O
product | 3,3-diethyl-12-phenyl-1-aza-1,5,9-cyclododecatriene | 0.393 mol, 116 g | C(C)C1(C=NC(CC=CCCC=CC1)C1=CC=CC=C1)CC | C21H29N
